US04002757
N-(1-Cyclohexyl-3-pyrrolidinyl)-2-chloro-4-quinoline-carboxamide.
To 3.16 gm. (0.0195mole) of 3-amino-1-cyclohexylpyrrolidine in 50 ml. of chloroform was added dropwise a solution of 3.5 gm. (0.015 mole) of 2-chloro-4-quinolinecarbonyl chloride in 50 ml. of chloroform. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate containing 10% isopropyl ether and dilute hydrochloric acid. The separated acid layer was made basic with dilute sodium hydroxide solution and extracted with chloroform. The chloroform solution was dried over sodium sulfate, concentrated and the residue recrystallized twice from isopropyl ether-ethyl acetate. The product (0.7 gm.; 13%) melted at 127°-219° C.

reactant | 3-amino-1-cyclohexylpyrrolidine | 0.0195mole | NC1CN(CC1)C1CCCCC1 | C10H20N2
reactant | 2-chloro-4-quinolinecarbonyl chloride | 0.015 mole | ClC1=NC2=CC=CC=C2C(=C1)C(=O)Cl | C10H5Cl2NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(1-Cyclohexyl-3-pyrrolidinyl)-2-chloro-4-quinoline-carboxamide | C1(CCCCC1)N1CC(CC1)NC(=O)C1=CC(=NC2=CC=CC=C12)Cl | C20H24ClN3O
